// sar_adc_dac_weighted_8b gold smoke testbench
// 8-bit S/H -> multi-cycle SAR ADC -> weighted DAC round-trip.
// fs=50MHz, fin=200kHz, stop=9us. The ADC exposes trial-bit monitors so
// the checker can validate the closed-loop approximation process, not only the
// final code.
simulator lang=spectre
global 0

ahdl_include "sar_adc_weighted_8b.va"
ahdl_include "dac_weighted_8b.va"
ahdl_include "sh_ideal.va"

parameters vdd=0.9 fin=200e3

Vvdd (vdd 0) vsource dc=vdd
Vvss (vss 0) vsource dc=0

// 50 MHz sampling clock (period=20ns)
Vclks (clks 0) vsource type=pulse val0=0 val1=vdd period=20n \
               rise=500p fall=500p

// Reset active-low for first 3 clock cycles (0-60ns)
Vrst_n (rst_n 0) vsource type=pwl wave=[0 0  59n 0  60n vdd  9000n vdd]

// Full-swing sine: 200 kHz, covers all 256 codes over one full cycle plus margin
Vvin (vin 0) vsource type=sine sinedc=0.45 ampl=0.45 freq=fin

IADC (vin_sh clks rst_n dout_7 dout_6 dout_5 dout_4 dout_3 dout_2 dout_1 dout_0 \
      bit_index trial_code_mon trial_vdac cmp_decision conv_done vin_sample) \
      sar_adc_weighted_8b vdd=vdd

IDAC (dout_7 dout_6 dout_5 dout_4 dout_3 dout_2 dout_1 dout_0 vout) \
      dac_weighted_8b vdd=vdd

ISH (vin clks vdd vss rst_n vin_sh) sh_ideal

tran tran stop=9u maxstep=5n
save vin vin_sh clks rst_n vout dout_7 dout_6 dout_5 dout_4 dout_3 dout_2 dout_1 dout_0 \
     bit_index trial_code_mon trial_vdac cmp_decision conv_done vin_sample
